2124-09-17 07:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - LENIs negative
   - started heparin gtt
   - stopped IVF, gave Lasix 10mg IV x1
   - BNP nl
   - induced sputum, urine Legionella, flu swab
   - continued vanc, cefepime, tamiflu
   - was unable to be weaned from NRB
   - at 2am, complained of [**2125-3-26**] abdominal pain in LLQ with no
   nausea/vomiting, had soft stool yesterday after taking a docusate,
   nontender on exam -> KUB showed no free air -> gave more simethecone,
   senna and bisacodyl (already got docusate earlier)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-9-16**] 05:46 PM
   Cefipime - [**2124-9-16**] 08:00 PM
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2124-9-16**] 03:22 PM
   Heparin Sodium - [**2124-9-16**] 03:31 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-17**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.5
   HR: 67 (67 - 97) bpm
   BP: 103/52(64) {89/44(58) - 125/90(95)} mmHg
   RR: 20 (18 - 34) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    564 mL
                                                                    160 mL
   PO:
             TF:
   IVF:
                                                                    564 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                    110 mL
   Urine:
                                                                  1,735 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,171 mL
                                                                     50 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ///21/
   Physical Examination
   Gen: AAOx3, breathing comfortably on NRB
   CV: RRR, no murmurs
   Resp: crackles at bases
   Abd: soft, nondistended, nontender, hypoactive bowel sounds
   Ext: no edema
   Labs / Radiology
   305 K/uL
   9.4 g/dL
   139 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.0 mEq/L
   109 mEq/L
   140 mEq/L
   27.3 %
   5.1 K/uL
        [image002.jpg]
                             [**2124-9-17**]  05:02 AM
   WBC
   5.1
   Hct
   27.3
   Plt
   305
   Cr
   0.6
   Glucose
   139
   Other labs:
   PT / PTT / INR:/84.6/,
   Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   BNP 327
   Urine Cr 127
   Urine Na 235
   FeNa 0.7%
   Micro;
   Urine leigionella ag neg
   All other cx pending
   CXR (my read): worsening infiltrate in left lung
   KUB (my read): no free air
   Assessment and Plan
   Assessment and plan:  65 year old woman with metastatic breast cancer
   admitted for hypoxia and URTI symptoms, transferred to the ICU for
   worsening hypoxia, stable on NRB.
   .
   # Hypoxia: Diff DX includes infectious (most likely viral or atypical
   given onset and interstitial pattern though would have expected
   atypical to respond to Azithro), malignant (lymphangitic
   carcinomatosis), Pulmonary Embolism and volume overload.  Patient's
   course and URTI symptoms, plus her husband's illness is most consistent
   with a viral process that was complicated by either PE or volume
   overload.  Repeat CXR hints at volume overload though not clear.
   Patient mildly tachycardic but EKG does not show stigmata of PE.
   Patient at some increased risk for PCP given recent dexamethasone but
   this is much less likely given her course.
   - continue 02 via NC, NRB or NIPPV to keep sats >90%.  If unable to,
   will have to consider intubation. Patient clear that intubation ONLY
   for short term to get over illness.
   -repeat ABG with any clinical change
   - Albuterol and Ipatrop nebs, standing
   - Continue broad coverage with Vanco, Cefepime and Tamiflu
   - f/u sputum culture incl PCP (will start PCP tx if cx positive, pt has
   minimal exposure to steroids in recent past for XRT to brain)
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1292**] pharyngeal aaspirate for viral DFA and culture
   - legionella urinary antigen is neg
   - BNP nl, but can consider diuresis
   - Bilateral LENIs were neg for DVT
   - continue heparin gtt and f/u CTA to r/o PE
   - if no improvement, will discuss with ONC re:lymphangitic spread of CA
   given increasing LDH.
   .
   # Abdominal pain: diff incl constipation, metastatic disease,
   diverticulitis, gastroenteritis.
   - KUB showed no free air
   - continue simethicone, aggressive bowel regimen
   - f/u CT abd/pelvis
   - f/u stool studies
   - f/u amylase/lipase
   .
   # Breast cancer:  ER/PR positive breast cancer, developed recurrent
   disease in [**2122**] metastatic to lung and has progressed despite treatment
   with faslodex, aromasin and xomeda. Recent whole brain irradiation.
   - f/u onc recs with primary oncologist, Dr. [**Last Name (STitle) **]
   - pain control with oxycodone PRN, consider IV morphine if not
   controlled
   - nausea control with zofran and lorazepam prn
   .
   # Constipation:
   -standing senna and [**Last Name (LF) 3318**], [**First Name3 (LF) **] give lactulose prn
   ICU Care
   Nutrition: npo
   Glycemic Control:  none
   Lines:
   20 Gauge - [**2124-9-16**] 10:05 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR, agreeable to intubation for short-term
   Disposition: ICU

2124-09-17 09:21:00 Physician Attending Progress Note
Chief Complaint: resp distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo female with Breast Cancer metastatic to lung and brain
   admitted/transferred to [**Hospital Unit Name 1**] with acute respiratory distress
   24 Hour Events:
 SPUTUM CULTURE - At [**2124-9-16**] 03:15 PM
 NASAL SWAB - At [**2124-9-16**] 03:33 PM
   *Admitted to [**Hospital Unit Name 1**]; abx broadened to Vanc/Cefipime, Tamiflu
   *Lasix IV administered
   *Unable to wean down oxygen
   *at 2 am developed LLQ abdominal pain- nontender on exam. KUB without
   free air
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2124-9-17**] 08:00 AM
   Vancomycin - [**2124-9-17**] 08:30 AM
   Infusions:
   Heparin Sodium - 750 units/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2124-9-16**] 03:22 PM
   Heparin Sodium - [**2124-9-16**] 03:31 PM
   Pantoprazole (Protonix) - [**2124-9-17**] 08:00 AM
   Other medications:
   Tamiflu, alb/atrovent nebs, bisacodyl, Senna, colace, protonix, MVI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-17**] 09:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.9
C (98.4
   HR: 74 (67 - 97) bpm
   BP: 110/55(68) {89/44(58) - 125/90(95)} mmHg
   RR: 20 (18 - 34) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    564 mL
                                                                    745 mL
   PO:
             240 mL
   TF:
   IVF:
                                                                    564 mL
                                                                    505 mL
   Blood products:
   Total out:
                                                                  1,735 mL
                                                                    110 mL
   Urine:
                                                                  1,735 mL
                                                                    110 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,171 mL
                                                                    635 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: ///21/
   Physical Examination
   General Appearance: Well nourished, tachypneic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva pale
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical), (Breath
   Sounds: Crackles : left base and lower [**12-25**] left lung field)
   Abdominal: Soft, Bowel sounds present, mild LLQ tenderness without
   guarding/rebound
   Extremities: No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, No(t) Sedated, No(t) Paralyzed, Tone:
   Normal
   Labs / Radiology
   9.4 g/dL
   305 K/uL
   139 mg/dL
   0.6 mg/dL
   21 mEq/L
   3.0 mEq/L
   109 mEq/L
   140 mEq/L
   27.3 %
   5.1 K/uL
        [image002.jpg]
                             [**2124-9-17**]  05:02 AM
   WBC
   5.1
   Hct
   27.3
   Plt
   305
   Cr
   0.6
   Glucose
   139
   Other labs: PT / PTT / INR:/84.6/, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   Imaging: bilateral LENI's negative for DVT
   CXR: continued bilateral patchy infiltrates increased on left
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   65 yo female with breast Cancer met to lung and brain
   Admitted with hypoxia in the setting of URI symptoms, acutely worse
   after hospitalization and now requiring high dose oxygen
   1. Acute respiratory distress: no change with antibiotics, attempted
   diuresis and heparin
   Remains on Tamiflu/Cefipime/Vanco
   Given negative BNP, less concerned for volume overload-
   On heparin infusion for possible PE- CTA hopefully today
   2. LLQ pain- cause unclear, could represent constipation - will try to
   increase stool regimen
   CT chest/abdomen
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-9-16**] 10:05 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate); short term intubation ok
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2124-09-18 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - LLQ pain persists intermittently, got percocet and ativan yesterday;
   complains of abdominal pain again this AM [**2-29**], though not as severe as
   previously
   - KUB final read: Supine and upright views of the abdomen demonstrate a
   non-obstructive bowel gas pattern, and no evidence of free
   intraperitoneal air. Left basilar airspace opacification is identified
   within the imaged portion of the chest as well as bilateral nonspecific
   interstitial opacities and small pleural effusions
   - serial abdominal exam -> pain resolved.
   - f/u CTA/abdomen today: dictated read (check final read): 1. A marked
   worsening of interstitial and bilateral ground-glass opacity in a
   perihilar and upper lobe distribution, given rapid interval progression
   more consistent with pulmonary edema than lymphangitic carcinomatosis.
   No evidence of pulmonary embolism. 2. Mild rectal wall enhancement may
   reflect mild proctitis. 3. Unchanged diffuse osseous, hepatic and
   pulmonary metastases. Given underlying pulmonary metastases and
   significant superimposed interstitial and ground glass abnormality, a
   concomitant pulmonary metastatic disease progression cannot be excluded
   and short-term interval followup to exclude lmphangitic carcinomatosis
   is recommended.
   - stopped heparin gtt
   - fu stool studies
   - fu lipase/liver enzymes: all WNL
   - DNR, DNI only if short term intubation
   - given 20mg lasix IV X 1 yesterday
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2124-9-17**] 07:49 PM
   Vancomycin - [**2124-9-17**] 08:15 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-17**] 08:00 AM
   Furosemide (Lasix) - [**2124-9-17**] 11:32 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-18**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.2
   HR: 69 (65 - 96) bpm
   BP: 98/59(66) {80/45(53) - 129/67(82)} mmHg
   RR: 17 (16 - 32) insp/min
   SpO2: 97% on high flow mask, 6L
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,603 mL
                                                                     73 mL
   PO:
                                                                  1,140 mL
             TF:
   IVF:
                                                                  1,463 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                  1,002 mL
                                                                    460 mL
   Urine:
                                                                  1,002 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,601 mL
                                                                   -387 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///22/
   Physical Examination
   GEN: Alert, oriented, communicative, pleasant; shows work of breathing
   when off mask for a to talk on phone
   Neck: elevated JVP
   CHEST:  bilateral bibasilar crackles, heart regular
   ABD: soft, nondistended, LLQ tenderness to palpation, no suprapubic
   tenderness
   EXT: warm and well perfused, no periph edema
   Skin:  diffusely dry skin with no breaks in skin
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   CXR: [my read] bilateral hilar infiltrates R>L , small left pleural
   effusion vs atelectasis; left lung shows significant interval
   improvement of opacities
   323 K/uL
   9.6 g/dL
   98 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.2 mEq/L
   107 mEq/L
   135 mEq/L
   28.2 %
   6.7 K/uL
        [image002.jpg]
                             [**2124-9-17**]  05:02 AM
                             [**2124-9-18**]  04:49 AM
   WBC
   5.1
   6.7
   Hct
   27.3
   28.2
   Plt
   305
   323
   Cr
   0.6
   0.7
   Glucose
   139
   98
   Other labs: PT / PTT / INR:13.7/29.4/1.2, ALT / AST:21/32, Alk Phos / T
   Bili:74/0.6, Amylase / Lipase:59/14, LDH:315 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.6 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   65 year old woman with metastatic breast cancer admitted for hypoxia
   and URTI symptoms, transferred to the ICU for worsening hypoxia, stable
   on NRB.
   .
   # Hypoxia: Diff DX includes infectious (most likely viral or atypical
   bacterial given onset and interstitial pattern though she did not
   respond to Azithro), malignant (lymphangitic carcinomatosis), and
   volume overload.  Patient's course and URI symptoms, plus her husband's
   illness is most consistent with a viral process w possible complication
   by PE or volume overload.  Repeat CXR showed some improvement with 1
   dose of IV lasix yesterday, suggesting that she may be volume
   overloaded despite not having peripheral edema.  She does have elevated
   JVP this morning. No signs of PE on CT.  Patient at some increased risk
   for PCP given recent dexamethasone but this is much less likely given
   her course.
   - continue 02, currently on 6L high flow face mask, titrate to keep
   sats >90%.  If unable to, will have to consider intubation. Patient
   clear that intubation ONLY for short term to get over illness.
   -repeat ABG with any clinical change
   - if clinical course does not improve, may consider bronch for tissue
   biopsy to assess for lymphangitic carcinomatosis
   - Albuterol and Ipatrop nebs, standing
   - No current atypical coverage, since patient recently completed full
   course of azithromycin
   -patient with some improvement clinically and by CXR with lasix
   overnight, will give another 20mg of IV lasix, will check an echo for
   formal evaluation of cardiac function
   -sputum culture will be resent since specimen was contaminated
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1292**] pharyngeal aaspirate for viral DFA and culture
   - legionella urinary antigen is neg; f/u with sputum legionella culture
   - heparin gtt stopped as CTA was negative and bilateral LENIs were neg
   for DVT
   - if no improvement, will discuss with ONC re:lymphangitic spread of CA
   given increasing LDH.
   .
   # Abdominal pain: diff incl constipation, metastatic disease,
   diverticulitis, gastroenteritis.  Abdom pain could be component of
   legionella or could be related to constipation.  [**Month (only) 51**] have
   diverticulosis, but has not had signs of diverticulitis.  Currently
   afebrile, no blood in stool.  CT abdomen/pelvis showed possible mild
   proctitis.  KUB showed no free air.  Amylase 59, Lipase 14.
   - continue to monitor w abdominal exam
   - continue simethicone, aggressive bowel regimen
   - f/u stool studies
   .
   # Breast cancer:  ER/PR positive breast cancer, developed recurrent
   disease in [**2122**] metastatic to lung and has progressed despite treatment
   with faslodex, aromasin and xomeda. Recent whole brain irradiation.
   - f/u onc recs with primary oncologist, Dr. [**Last Name (STitle) **]
   - pain control with oxycodone PRN, consider IV morphine if not
   controlled
   - nausea control with zofran and lorazepam prn
   .
   # Constipation:
   -standing senna and colace, lactulose prn
   ICU Care
   Nutrition: Full liquid diet (started today)
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-9-16**] 10:05 PM
   Prophylaxis:
   DVT:   subQ heparin
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR (Agrees to intubation ONLY for short term to get over
   illness)
   Disposition:ICU

2124-09-19 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:  respiratory distress
   24 Hour Events:
   - TTE: EF 75% to 80%, hyperdynamic; moderate pulmonary artery systolic
   HTN ; mildly thickened aortic and mitral valves
       - TR Gradient (+ RA = PASP):  *37 mm Hg
   - had bowel movement
   - stopped tamiflu
   - reordered sputum culture that was inadequate again
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-9-18**] 07:36 PM
   Cefipime - [**2124-9-18**] 07:36 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2124-9-18**] 08:00 AM
   Furosemide (Lasix) - [**2124-9-18**] 11:15 AM
   Heparin Sodium (Prophylaxis) - [**2124-9-18**] 10:26 PM
   Other medications:
   Changes to medical and family history:  none
   Review of systems is unchanged from admission except as noted below
   Review of systems:  denies chest pain, peripheral edema, headache.
   Does report LLQ pain that resolved with a single percocet last night.
   Denies abdominal pain currently.
   Flowsheet Data as of  [**2124-9-19**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 85 (73 - 93) bpm
   BP: 107/55(69) {86/42(55) - 119/80(86)} mmHg
   RR: 24 (17 - 34) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,453 mL
                  PO:
                                                                    780 mL
                  TF:
   IVF:
                                                                    673 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    510 mL
   Urine:
                                                                  2,030 mL
                                                                    510 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -877 mL
                                                                   -510 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG:  none
   Physical Examination
   GEN: Alert, oriented, communicative, pleasant
   CHEST: bilateral basilar inspiratory crackles to about [**1-25**] way up
   posteriorly;  heart regular, no murmurs, no thrills or heaves
   ABD: soft, nondistended, mild LLQ tenderness to palpation, no
   suprapubic tenderness
   EXT:  no periph edema, warm and well perfused, no cyanosis, cap refill
   < 2 seconds throughout upper and lower
   SKIN: diffusely dry skin, but does not appear to have broken skin, no
   visible rashes, some telangectasia on cheeks
   Neurologic: awake and conversant, grossly intact
   Labs / Radiology
   348 K/uL
   9.3 g/dL
   110 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.6 mEq/L
   13 mg/dL
   109 mEq/L
   140 mEq/L
   27.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2124-9-17**]  05:02 AM
                             [**2124-9-18**]  04:49 AM
                             [**2124-9-19**]  05:07 AM
   WBC
   5.1
   6.7
   5.4
   Hct
   27.3
   28.2
   27.1
   Plt
   [**Telephone/Fax (3) 10371**]
   Cr
   0.6
   0.7
   0.5
   Glucose
   139
   98
   110
   Other labs: PT / PTT / INR:13.7/29.4/1.2, ALT / AST:21/32, Alk Phos / T
   Bili:74/0.6, Amylase / Lipase:59/14, LDH:315 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.2 mg/dL
   ECHO:  hyperdynamic LV with moderate PA hypertension (37 mmHg)
   CXR:  increased bibasilar opacities
   Assessment and Plan
   65 year old woman with metastatic breast cancer admitted for hypoxia
   and URTI symptoms, transferred to the ICU for worsening hypoxia, stable
   on NRB.
   .
   # Hypoxia: Diff DX includes infectious (most likely viral or atypical
   given onset and interstitial pattern though would have expected
   atypical to respond to Azithro), malignant (lymphangitic
   carcinomatosis), and volume overload.  Patient's course and URI
   symptoms, plus her husband's illness is most consistent with a viral
   process that was complicated by either PE or volume overload.  Repeat
   CXR hints at volume overload though not clear. Patient at some
   increased risk for PCP given recent dexamethasone but this is much less
   likely given her course.
   - continue 02, currently on 6L NC + high flow face mask FI02 95% with
   sats in the mid 90s. titrate to keep sats >90%.  If unable to, will
   have to consider intubation. Patient clear that intubation ONLY for
   short term to get over illness.
   -patient with some improvement clinically with lasix and negative 877
   ml yesterday.  Will continue gentle diuresis with goal negative 500mL
   today.
   -repeat ABG with any clinical change
   - Albuterol and Ipatrop nebs, standing
   - continue vancomycin and cefepime for empiric coverage of pneumonia
   - patient recently completed a course of Azithromycin for atypical
   coverage
   - viral studies negative
   - legionella urinary antigen is neg
   - heparin gtt stopped as CTA was negative and bilateral LENIs were neg
   for DVT
   - will discuss with nuclear medicine re utility of gallium scan to help
   differentiate lymphangitic carcanomatosis from infectious etiology
   .
   # Abdominal pain: diff incl constipation, metastatic disease,
   diverticulitis, gastroenteritis.
   -CT abdomen/pelvis showed mild proctatitis
   - KUB showed no free air
   - continue simethicone, aggressive bowel regimen
   - amylase/lipase  WNL
   - follow clinical exam and treat symptomatically with percocet
   .
   # Breast cancer:  ER/PR positive breast cancer, developed recurrent
   disease in [**2122**] metastatic to lung and has progressed despite treatment
   with faslodex, aromasin and xomeda. Recent whole brain irradiation.
   - f/u onc recs with primary oncologist, Dr. [**Last Name (STitle) **]
   - pain control with oxycodone PRN, consider IV morphine if not
   controlled
   - nausea control with zofran and lorazepam prn
   .
   # Constipation:
   -standing senna and [**Last Name (LF) 3318**], [**First Name3 (LF) **] give lactulose prn
   ICU Care
   Nutrition: Advance diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-9-16**] 10:05 PM
   Prophylaxis:
   DVT:   subq heparin
   Stress ulcer:   PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/DNI
   Disposition:ICU

2124-09-19 12:04:00 Physician Attending Progress Note
Chief Complaint: Respiratory distress, breast ca
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Patient's resp status has been stable on antibiotics and supplemental
   oxygen by mask.
   Echocardiogram shows hyperdynamic LV.
   LDH rising
   Diuresed over past 24 hours.
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2124-9-18**] 02:25 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2124-9-19**] 08:20 AM
   Vancomycin - [**2124-9-19**] 09:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-9-19**] 08:20 AM
   Other medications:
   Albuterol, atrovent, protonix, MVI, oxycodone
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2124-9-19**] 11:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 90 (76 - 93) bpm
   BP: 93/43(55) {86/42(55) - 119/80(86)} mmHg
   RR: 20 (17 - 34) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,453 mL
                                                                    370 mL
   PO:
                                                                    780 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    673 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  2,330 mL
                                                                    670 mL
   Urine:
                                                                  2,030 mL
                                                                    670 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                   -877 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, Overweight
   / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Mild respiratory
   distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: No(t) Normal, Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Diffuse, scattered, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right lower extremity edema: Absent edema, Left lower
   extremity edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): X 3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   9.3 g/dL
   348 K/uL
   110 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.6 mEq/L
   13 mg/dL
   109 mEq/L
   140 mEq/L
   27.1 %
   5.4 K/uL
        [image002.jpg]
                             [**2124-9-17**]  05:02 AM
                             [**2124-9-18**]  04:49 AM
                             [**2124-9-19**]  05:07 AM
   WBC
   5.1
   6.7
   5.4
   Hct
   27.3
   28.2
   27.1
   Plt
   [**Telephone/Fax (3) 10371**]
   Cr
   0.6
   0.7
   0.5
   Glucose
   139
   98
   110
   Other labs: PT / PTT / INR:13.7/29.4/1.2, ALT / AST:21/32, Alk Phos / T
   Bili:74/0.6, Amylase / Lipase:59/14, LDH:315 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.2 mg/dL
   Imaging: CXR: worsening nodular alveolar infiltrates
   Assessment and Plan
 ABDOMINAL PAIN (INCLUDING ABDOMINAL TENDERNESS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
   ANEMIA
   BREAST CA
   =====================
   Continues to have significant oxygen requirement. Off mask, with only
   nasal cannula at 6L/min, patient desaturated to 81% over about [**10-5**]
   minutes. Would continue daily negative fluid balance until BUN/Creat
   ratio up to 20/1. Maintain antibiotics. Sputum cultures non-revealing;
   completed full course of azithro. Influenza testing negative.
   Hct stable. Not at transfusion threshold.
   ICU Care
   Nutrition: Oral
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-9-16**] 10:05 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2124-09-20 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress
   24 Hour Events:
   -FI02 decreased from 95% to 60% on high flow mask
   -subjectively feels better, did have single episode overnight of acute
   SOB that was
not too bad
   -sats better tolerated on OOB to chair, to toilet
   -LLQ abdominal pain [**5-31**] improved on tylenol
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2124-9-19**] 08:20 PM
   Vancomycin - [**2124-9-19**] 09:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2124-9-19**] 10:17 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  denies chest pain, palpitations, nausea, pain other
   than LLQ abdominal pain.  No BM yesterday.
   Flowsheet Data as of  [**2124-9-20**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.9
   HR: 77 (65 - 94) bpm
   BP: 113/77(85) {92/40(53) - 113/77(85)} mmHg
   RR: 22 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                                                                  1,280 mL
                                                                    100 mL
   PO:
                                                                    780 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    500 mL
   Blood products:
   Total out:
                                                                  1,110 mL
                                                                    190 mL
   Urine:
                                                                  1,110 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    170 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 60%
   Physical Examination
   GEN:  found sleeping comfortably with head of bed at 45 degrees, easily
   aroused
   HEENT:  conjunctiva pink, L supraclavicular fullness that is chronic
   per patient
   Labs / Radiology
   367 K/uL
   8.9 g/dL
   107 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.7 mEq/L
   12 mg/dL
   108 mEq/L
   141 mEq/L
   26.3 %
   4.3 K/uL
        [image002.jpg]
                             [**2124-9-17**]  05:02 AM
                             [**2124-9-18**]  04:49 AM
                             [**2124-9-19**]  05:07 AM
                             [**2124-9-20**]  04:49 AM
   WBC
   5.1
   6.7
   5.4
   4.3
   Hct
   27.3
   28.2
   27.1
   26.3
   Plt
   [**Telephone/Fax (3) 10390**]67
   Cr
   0.6
   0.7
   0.5
   0.5
   Glucose
   139
   98
   110
   107
   Other labs: PT / PTT / INR:12.5/30.5/1.1, ALT / AST:21/32, Alk Phos / T
   Bili:74/0.6, Amylase / Lipase:59/14, LDH:315 IU/L, Ca++:7.7 mg/dL,
   Mg++:2.5 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Assessment and Plan
   65 year old woman with metastatic breast cancer admitted for hypoxia
   and URTI symptoms, transferred to the ICU for worsening hypoxia, stable
   on NRB.
   .
   # Hypoxia: Diff DX includes infectious (most likely viral or atypical
   given onset and interstitial pattern though would have expected
   atypical to respond to Azithro), malignant (lymphangitic
   carcinomatosis), and volume overload.  Patient's course and URI
   symptoms, plus her husband's illness is most consistent with a viral
   process that was complicated by either PE or volume overload.  Repeat
   CXR hints at volume overload though not clear. Patient at some
   increased risk for PCP given recent dexamethasone but this is much less
   likely given her course.
   - continue 02, currently on 6L NC + high flow face mask FI02 50% with
   sats in the mid 90s. Will continue to slowly wean O2 and titrate to
   keep sats >90%.  Unlikely to require intubation given clinical
   improvement. Patient clear that intubation ONLY for short term to get
   over illness.
   - patient with some continued clinical and subjective improvement,
   seems unrelated to fluctuations in volume status.  Will hold any
   diuresis and allow her to autoregulate
   - repeat ABG with any clinical change
   - Albuterol and Ipatrop nebs, standing
   - continue vancomycin and cefepime for empiric coverage of pneumonia
   - patient recently completed a course of Azithromycin for atypical
   coverage
   - viral studies negative
   - legionella urinary antigen is neg
   - heparin gtt stopped as CTA was negative and bilateral LENIs were neg
   for DVT
   - per nuclear medicine, gallium scan unlikely to help differentiate
   lymphangitic carcanomatosis from infectious etiology
   .
   # Abdominal pain: diff incl constipation, metastatic disease,
   diverticulitis, gastroenteritis.
   -CT abdomen/pelvis showed mild proctatitis
   - KUB showed no free air
   - continue simethicone, aggressive bowel regimen
   - amylase/lipase  WNL
   - follow clinical exam and treat symptomatically with tylenol
   .
   # Breast cancer:  ER/PR positive breast cancer, developed recurrent
   disease in [**2122**] metastatic to lung and has progressed despite treatment
   with faslodex, aromasin and xomeda. Recent whole brain irradiation.
   - f/u onc recs with primary oncologist, Dr. [**Last Name (STitle) **]
   - pain control with oxycodone PRN, consider IV morphine if not
   controlled
   - nausea control with zofran and lorazepam prn
   .
   # Constipation:  no BM yesterday, goal to have BM today
   -standing senna and [**Last Name (LF) 3318**], [**First Name3 (LF) **] give lactulose prn
   ICU Care
   Nutrition: full feeds
   Glycemic Control:
   Lines:
   20 Gauge - [**2124-9-16**] 10:05 PM
   Prophylaxis:
   DVT:  SCH
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR/DNI
   Disposition:  Heme/Onc service